US05550249
Triethanolamine biotinate was prepared, according to the same methodology described in Example 1, by reacting biotin with triethanolamine.

reactant | biotin | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
reactant | triethanolamine | N(CCO)(CCO)CCO | C6H15NO3
product | Triethanolamine biotinate | C(CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12)(=O)O.N(CCO)(CCO)CCO | InChI=1S/C10H16N2O3S.C6H15NO3/c13-8(14)4-2-1-3-7-9-6(5-16-7)11-10(15)12-9;8-4-1-7(2-5-9)3-6-10/h6-7,9H,1-5H2,(H,13,14)(H2,11,12,15);8-10H,1-6H2/t6-,7-,9-;/m0./s1
